### PR TITLE
[Merged by Bors] - feat: matroid duality

### PR DESCRIPTION
**Pull request by apnelson1**
This PR adds the definition of the dual of a matroid and co-independent sets, as well as some notation and API. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Dual.lean [hunk 1]
```diff
@@ -0,0 +1,264 @@
...
+    obtain (heB'' | ⟨-,heX⟩ ) := hB₁I heB'
+    · exact hdj.ne_of_mem heJ heB'' rfl
+    exact heX (hJX heJ)
+  subset_ground := by tauto
+
+/-- The dual of a matroid; the bases are the complements (w.r.t `M.E`) of the bases of `M`. -/
+def dual (M : Matroid α) : Matroid α := M.dual_indepMatroid.matroid
+
+/-- A notation typeclass for matroid duality-/
+class Mdual (β : Type*) := (dual : β → β)
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:119]: Do you intend to have more than one instance of this class? If not, you could define the notation to use `Matroid.dual` directly and simplify things.

File: Mathlib/Data/Matroid/Dual.lean [hunk 2]
```diff
@@ -0,0 +1,264 @@
...
+
+@[simp] theorem dual_ground : M﹡.E = M.E := rfl
+
+@[aesop unsafe 10% (rule_sets [Matroid])]
+theorem subset_dual_ground_of_subset_ground (hX : X ⊆ M.E) : X ⊆ M﹡.E :=
+  hX
+
+@[aesop unsafe 10% (rule_sets [Matroid])]
+theorem subset_ground_of_subset_dual_ground (hX : X ⊆ M﹡.E) : X ⊆ M.E :=
+  hX
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:138]: Given `dual_ground`, are these theorems needed? I don't know exactly what aesop can do.

File: Mathlib/Data/Matroid/Dual.lean [hunk 3]
```diff
@@ -0,0 +1,264 @@
...
+      rw [disjoint_union_right, and_iff_left hI'B]
+      exact disjoint_of_subset hI'X hI.subset disjoint_sdiff_right
+    simp only [mem_setOf_eq, subset_inter_iff, and_imp, forall_exists_index]
+    intros J hJE B'' hB'' hdj _ hJX hssJ
+    rw [and_iff_left hJE]
+    rw [diff_eq, inter_right_comm, ←diff_eq, diff_subset_iff] at hssJ
+
+    have hI' : (B'' ∩ X) ∪ (B' \ X) ⊆ B'
+    · rw [union_subset_iff, and_iff_left (diff_subset _ _),
+      ←inter_eq_self_of_subset_left hB''.subset_ground, inter_right_comm, inter_assoc]
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:88]:
```suggestion
        ←inter_eq_self_of_subset_left hB''.subset_ground, inter_right_comm, inter_assoc]
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 4]
```diff
@@ -0,0 +1,264 @@
...
+theorem subset_dual_ground_of_subset_ground (hX : X ⊆ M.E) : X ⊆ M﹡.E :=
+  hX
+
+@[aesop unsafe 10% (rule_sets [Matroid])]
+theorem subset_ground_of_subset_dual_ground (hX : X ⊆ M﹡.E) : X ⊆ M.E :=
+  hX
+
+@[simp] theorem dual_indep_iff_exists (hI : I ⊆ M.E := by aesop_mat) :
+  M﹡.Indep I ↔ (∃ B, M.Base B ∧ Disjoint I B) :=
+by rw [dual_indep_iff_exists', and_iff_right hI]
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:142]:
```suggestion
    M﹡.Indep I ↔ (∃ B, M.Base B ∧ Disjoint I B) := by
  rw [dual_indep_iff_exists', and_iff_right hI]
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 5]
```diff
@@ -0,0 +1,264 @@
...
+
+theorem dual_dep_iff_forall : (M﹡.Dep I) ↔ (∀ B, M.Base B → (I ∩ B).Nonempty) ∧ I ⊆ M.E :=
+  by simp_rw [dep_iff, dual_indep_iff_exists', dual_ground, and_congr_left_iff, not_and,
+    not_exists, not_and, not_disjoint_iff_nonempty_inter, imp_iff_right_iff, iff_true_intro Or.inl]
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:146]:
```suggestion
theorem dual_dep_iff_forall : (M﹡.Dep I) ↔ (∀ B, M.Base B → (I ∩ B).Nonempty) ∧ I ⊆ M.E := by
  simp_rw [dep_iff, dual_indep_iff_exists', dual_ground, and_congr_left_iff, not_and,
    not_exists, not_and, not_disjoint_iff_nonempty_inter, imp_iff_right_iff, iff_true_intro Or.inl]
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 6]
```diff
@@ -0,0 +1,264 @@
...
+
+instance dual_finite [M.Finite] : M﹡.Finite :=
+  ⟨M.ground_finite⟩
+
+instance dual_nonempty [M.Nonempty] : M﹡.Nonempty :=
+  ⟨M.ground_nonempty⟩
+
+theorem subset_ground_dual (hX : X ⊆ M.E := by aesop_mat) : X ⊆ M﹡.E :=
+  hX
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:155]: This appears to be `subset_dual_ground_of_subset_ground`

File: Mathlib/Data/Matroid/Dual.lean [hunk 7]
```diff
@@ -0,0 +1,264 @@
...
+@[simp] theorem dual_base_iff (hB : B ⊆ M.E := by aesop_mat) : M﹡.Base B ↔ M.Base (M.E \ B) := by
+  rw [base_compl_iff_mem_maximals_disjoint_base, base_iff_maximal_indep, dual_indep_iff_exists',
+    mem_maximals_setOf_iff]
+  simp [dual_indep_iff_exists']
+
+theorem dual_base_iff' : M﹡.Base B ↔ M.Base (M.E \ B) ∧ B ⊆ M.E :=
+  (em (B ⊆ M.E)).elim (fun h ↦ by rw [dual_base_iff, and_iff_left h])
+    (fun h ↦ iff_of_false (h ∘ (fun h' ↦ h'.subset_ground)) (h ∘ And.right))
+
+theorem setOf_dual_base_eq : setOf M﹡.Base = (fun X ↦ M.E \ X) '' {B | M.Base B} := by
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:166]:
```suggestion
theorem setOf_dual_base_eq : {B | M﹡.Base B} = (fun X ↦ M.E \ X) '' {B | M.Base B} := by
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 8]
```diff
@@ -0,0 +1,264 @@
...
+  exact hfb.2 (hBX.mem_of_insert_indep (Or.elim (hem.1 hfb.1) (False.elim ∘ hfb.2) id) hi).1
+
+theorem Base.inter_basis_iff_compl_inter_basis_dual (hB : M.Base B) (hX : X ⊆ M.E := by aesop_mat):
+    M.Basis (B ∩ X) X ↔ M﹡.Basis ((M.E \ B) ∩ (M.E \ X)) (M.E \ X) := by
+  refine' ⟨hB.compl_inter_basis_of_inter_basis, fun h ↦ _⟩
+  simpa [inter_eq_self_of_subset_right hX, inter_eq_self_of_subset_right hB.subset_ground] using
+    hB.compl_base_dual.compl_inter_basis_of_inter_basis h
+
+theorem dual_inj {M₁ M₂ : Matroid α} (h : M₁﹡ = M₂﹡) : M₁ = M₂ :=
+by rw [←dual_dual M₁, h, dual_dual]
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:211]:
```suggestion
theorem dual_inj {M₁ M₂ : Matroid α} (h : M₁﹡ = M₂﹡) : M₁ = M₂ := by
  rw [←dual_dual M₁, h, dual_dual]
```
And could you move this theorem to after `dual_dual`? The two after that should move too.

File: Mathlib/Data/Matroid/Dual.lean [hunk 9]
```diff
@@ -0,0 +1,264 @@
...
+
+theorem Base.ssubset_ground [h : RkPos M﹡] (hB : M.Base B) : B ⊂ M.E :=
+  hB.subset_ground.ssubset_of_ne (by rintro rfl; exact M.ground_not_base hB)
+
+theorem Indep.ssubset_ground [h : RkPos M﹡] (hI : M.Indep I) : I ⊂ M.E := by
+  obtain ⟨B, hB⟩ := hI.exists_base_superset; exact hB.2.trans_ssubset hB.1.ssubset_ground
+
+/-- A coindependent set of `M` is an independent set of the dual of `M﹡`. we give it a separate
+  definition to enable dot notation. -/
+@[reducible] def Coindep (M : Matroid α) (I : Set α) : Prop := M﹡.Indep I
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:236]:
```suggestion
abbrev Coindep (M : Matroid α) (I : Set α) : Prop := M﹡.Indep I
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 10]
```diff
@@ -0,0 +1,255 @@
...
+
+namespace Matroid
+
+variable {α : Type*} {M : Matroid α} {I B X : Set α}
+
+section dual
+
+/-- Given `M : Matroid α`, the `IndepMatroid α` whose independent sets are
+  the subsets of `M.E` that are disjoint from some base of `M` -/
+@[simps] def dual_indepMatroid (M : Matroid α) : IndepMatroid α where
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:41]: Underscores aren't allowed in defition names:
```suggestion
@[simps] def dualIndepMatroid (M : Matroid α) : IndepMatroid α where
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 11]
```diff
@@ -0,0 +1,255 @@
...
+
+@[simp] theorem dual_dual (M : Matroid α) : M﹡﹡ = M :=
+  eq_of_base_iff_base_forall rfl (fun B (h : B ⊆ M.E) ↦
+    by rw [dual_base_iff, dual_base_iff, dual_ground, diff_diff_cancel_left h])
+
+theorem dual_inj {M₁ M₂ : Matroid α} (h : M₁﹡ = M₂﹡) : M₁ = M₂ := by
+  rw [←dual_dual M₁, h, dual_dual]
+
+@[simp] theorem dual_inj_iff {M₁ M₂ : Matroid α} : M₁﹡ = M₂﹡ ↔ M₁ = M₂ :=
+  ⟨dual_inj, congr_arg _⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:165]:
```suggestion
theorem dual_involutive : Function.Involutive (dual : Matroid α → Matroid α) := dual_dual
  
theorem dual_injective : Function.Injective (dual : Matroid α → Matroid α) :=
  dual_involutive.injective

@[simp] theorem dual_inj_iff {M₁ M₂ : Matroid α} : M₁﹡ = M₂﹡ ↔ M₁ = M₂ :=
  dual_injective.eq_iff
```
or similar. I would guess the two lemmas below also follow from `dual_involutive`.

File: Mathlib/Data/Matroid/Dual.lean [hunk 12]
```diff
@@ -0,0 +1,255 @@
...
+  obtain ⟨B, hB⟩ := hI.exists_base_superset; exact hB.2.trans_ssubset hB.1.ssubset_ground
+
+/-- A coindependent set of `M` is an independent set of the dual of `M﹡`. we give it a separate
+  definition to enable dot notation. Which spelling is better depends on context. -/
+abbrev Coindep (M : Matroid α) (I : Set α) : Prop := M﹡.Indep I
+
+theorem coindep_def : M.Coindep X ↔ M﹡.Indep X := Iff.rfl
+
+theorem Coindep.indep (hX : M.Coindep X) : M﹡.Indep X :=
+  hX
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:226]: You should add `Indep.coindep` too for symmetry.

File: Mathlib/Data/Matroid/Dual.lean [hunk 13]
```diff
@@ -0,0 +1,264 @@
...
+theorem dual_involutive : Function.Involutive (dual : Matroid α → Matroid α) := dual_dual
+
+theorem dual_injective : Function.Injective (dual : Matroid α → Matroid α) :=
+  dual_involutive.injective
+
+@[simp] theorem dual_inj_iff {M₁ M₂ : Matroid α} : M₁﹡ = M₂﹡ ↔ M₁ = M₂ :=
+  dual_injective.eq_iff
+
+theorem dual_inj {M₁ M₂ : Matroid α} (h : M₁﹡ = M₂﹡) : M₁ = M₂ :=
+  dual_inj_iff.1
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:170]: This lemma is defeq to `dual_injective`; I don't think there's any need to have both.

File: Mathlib/Data/Matroid/Dual.lean [hunk 14]
```diff
@@ -0,0 +1,264 @@
...
+theorem coindep_def : M.Coindep X ↔ M﹡.Indep X := Iff.rfl
+
+theorem Coindep.indep (hX : M.Coindep X) : M﹡.Indep X :=
+  hX
+
+@[simp] theorem dual_coindep_iff : M﹡.Coindep X ↔ M.Indep X := by
+  rw [Coindep, dual_dual]
+
+theorem Indep.coindep (hI : M.Indep I) : M﹡.Coindep I :=
+    dual_coindep_iff.2 hI
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:238]: Proofs should be indented two not four spaces:
```suggestion
  dual_coindep_iff.2 hI
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 15]
```diff
@@ -0,0 +1,264 @@
...
+theorem coindep_iff_exists' : M.Coindep X ↔ (∃ B, M.Base B ∧ B ⊆ M.E \ X) ∧ X ⊆ M.E := by
+  simp_rw [Coindep, dual_indep_iff_exists', and_comm (a := _ ⊆ _), and_congr_left_iff, subset_diff]
+  exact fun _ ↦ ⟨fun ⟨B, hB, hXB⟩ ↦ ⟨B, hB, hB.subset_ground, hXB.symm⟩,
+    fun ⟨B, hB, _, hBX⟩ ↦ ⟨B, hB, hBX.symm⟩⟩
+
+theorem coindep_iff_exists (hX : X ⊆ M.E := by aesop_mat) :
+    M.Coindep X ↔ ∃ B, M.Base B ∧ B ⊆ M.E \ X := by
+  rw [coindep_iff_exists', and_iff_left hX]
+
+theorem coindep_iff_subset_compl_base : M.Coindep X ↔ ∃ B, M.Base B ∧ X ⊆ M.E \ B := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:249]: `\` is usually called `sdiff`:
```suggestion
theorem coindep_iff_subset_sdiff_base : M.Coindep X ↔ ∃ B, M.Base B ∧ X ⊆ M.E \ B := by
```

File: Mathlib/Data/Matroid/Dual.lean [hunk 16]
```diff
@@ -0,0 +1,264 @@
...
+    rw [union_comm, ←union_assoc, union_eq_self_of_subset_right (inter_subset_left _ _)] at hB₁I
+
+    have : B₁ = B'
+    · refine' hB₁.eq_of_subset_indep hB'.indep (fun e he ↦ _)
+      refine' (hB₁I he).elim (fun heB'' ↦ _) (fun h ↦ h.1)
+      refine' (em (e ∈ X)).elim (fun heX ↦ hI' (Or.inl ⟨heB'', heX⟩)) (fun heX ↦ hIB' _)
+      refine' hI.mem_of_insert_indep ⟨hB₁.subset_ground he, heX⟩
+        (hB₁.indep.subset (insert_subset he _))
+      refine' (subset_union_of_subset_right (subset_diff.mpr ⟨hIB',_⟩) _).trans hI'B₁
+      refine' disjoint_of_subset_left hI.subset disjoint_sdiff_left
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:104]: Generally `refine foo ?_` is preferred over `refine' foo _`

File: Mathlib/Data/Matroid/Dual.lean [hunk 17]
```diff
@@ -0,0 +1,260 @@
...
+  dual_involutive.injective
+
+@[simp] theorem dual_inj {M₁ M₂ : Matroid α} : M₁﹡ = M₂﹡ ↔ M₁ = M₂ :=
+  dual_injective.eq_iff
+
+theorem eq_dual_comm {M₁ M₂ : Matroid α} : M₁ = M₂﹡ ↔ M₂ = M₁﹡ := by
+  rw [←dual_inj, dual_dual, eq_comm]
+
+theorem eq_dual_iff_dual_eq {M₁ M₂ : Matroid α} : M₁ = M₂﹡ ↔ M₁﹡ = M₂ := by
+  rw [eq_dual_comm, eq_comm]
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Dual.lean:173]:
```suggestion
theorem eq_dual_iff_dual_eq {M₁ M₂ : Matroid α} : M₁ = M₂﹡ ↔ M₁﹡ = M₂ :=
  dual_involutive.eq_iff.symm
```
(untested)

File: Mathlib/Data/Matroid/Dual.lean (hunk 15 above)
Comment (kmill) [reply Mathlib/Data/Matroid/Dual.lean:245]: If you make sure that `M.E \ x` is documented to be `compl`, then that seems fine to me. I'd almost go as far as define the abbreviation `M.compl B` for this, but that might make things more difficult to work with.

File: Mathlib/Data/Matroid/Dual.lean [hunk 18]
```diff
@@ -0,0 +1,264 @@
...
+def dual (M : Matroid α) : Matroid α := M.dualIndepMatroid.matroid
+
+/-- The `﹡` symbol, which denotes matroid duality.
+  (This is distinct from the usual `*` symbol for multiplication, due to precedence issues. )-/
+postfix:max "﹡" => Matroid.dual
+
+theorem dual_indep_iff_exists' : (M﹡.Indep I) ↔ I ⊆ M.E ∧ (∃ B, M.Base B ∧ Disjoint I B) := by
+  simp [dual]
+
+@[simp] theorem dual_ground : M﹡.E = M.E := rfl
```
[the remark this answers is not in the document]
Comment (kmill) [reply Mathlib/Data/Matroid/Dual.lean:125]: Yeah, `ground` is documented in the module docstring for `Matroid.Basic`. (Maybe you want to create a naming conventions section to put these in one place for reference.)

File: Mathlib/Data/Matroid/Dual.lean [hunk 19]
```diff
@@ -0,0 +1,260 @@
...
+  simp_rw [dep_iff, dual_indep_iff_exists', dual_ground, and_congr_left_iff, not_and,
+    not_exists, not_and, not_disjoint_iff_nonempty_inter, imp_iff_right_iff, iff_true_intro Or.inl]
+
+instance dual_finite [M.Finite] : M﹡.Finite :=
+  ⟨M.ground_finite⟩
+
+instance dual_nonempty [M.Nonempty] : M﹡.Nonempty :=
+  ⟨M.ground_nonempty⟩
+
+@[simp] theorem dual_base_iff (hB : B ⊆ M.E := by aesop_mat) : M﹡.Base B ↔ M.Base (M.E \ B) := by
```
Comment (kmill) [inline Mathlib/Data/Matroid/Dual.lean:141]: Naming convention warning: this would often be `base_dual_iff`, since at least for data, the fact you used dot notation isn't taken into account for the order.

This sometimes goes both ways, and also `@[simps]` doesn't generate the "right" order, so I'll let it go for now, but someone might come along and rename it in a future refactoring.

**Review by kmill — APPROVED** [review]
Thanks, nice to see `M﹡﹡ = M`!

bors r+

I think someone more fastidious about names might have something to say about them -- how about if there are concerns by another reviewer, please leave them here and we'll make a followup refactoring PR?

File: Mathlib/Data/Matroid/Dual.lean (hunk 19 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Dual.lean:141]: ok, thanks!

**Comment by kmill** [comment]
Once you get the linting errors fixed:

bors d+

**Comment by apnelson1** [comment]
bors 

> ✌️ apnelson1 can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+
